US03998829
21-(2', 2'-Diacetylethyl)-3α-hydroxy-5α-pregnane-11,20-dione
A solution of sodium ethoxide, prepared from 120 mg of sodium in ethanol (20 ml), was treated with acetylacetone (1 ml) and the resulting solution added to a solution of 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione (500 mg) in ethanol (20 ml). The mixture was stirred at room temperature for 1 hour, poured into water, and extracted into ether. The extract was washed with water, dried (Na2SO4) and evaporated to a white foam which was purified by preparative t.l.c. (ethyl acetate/petrol) to give title compound (480 mg) as a white foam [α]D + 79.5 °(c, 0.59).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 120 mg | [Na] | Na
reactant | acetylacetone | 1 ml | C(C)(=O)CC(C)=O | C5H8O2
reactant | 3α-hydroxy-21-methylene-5α-pregnane-11,20-dione | 500 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C=C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C22H32O3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 21-(2', 2'-Diacetylethyl)-3α-hydroxy-5α-pregnane-11,20-dione | 480 mg | C(C)(=O)C(CCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O)C(C)=O | C27H40O5
